US06538004B2
1-methyl-4-[4-(trifluoromethoxy)phenyl]-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione
4-Trifluoromethoxybenzaldehyde (0.28 g, 1.5 mmol), 1,3-cyclopentadione (0.15 g, 1.5 mmol), and 5-amino-1-methyl-1,2-dihydropyrazol-3-one (0.17 g, 1.5 mmol) were processed as described in Example 1 to provide 0.15 g of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 2.3 (t, 2H), 2.68 (m, 2H), 3.49 (s, 3H), 4.72 (s, 1H), 7.18 (d, 2H), 7.23 (d, 2H), 9.5 (bs, 1H) 10.37 (s, 1H); MS (ESI−) m/z 364 (M−H)−; Anal. calcd for C17H14N3F3O3.0.25 H2O: C, 55.21;H, 3.95; N, 11.36. Found: C, 55.34;H, 3.78; N, 10.97.

reactant | 4-Trifluoromethoxybenzaldehyde | 1.5 mmol, 0.28 g | FC(OC1=CC=C(C=O)C=C1)(F)F | C8H5F3O2
reactant | 1,3-cyclopentadione | 1.5 mmol, 0.15 g | C1CC(=O)CC1=O | C5H6O2
reactant | 5-amino-1-methyl-1,2-dihydropyrazol-3-one | 1.5 mmol, 0.17 g | NC1=CC(NN1C)=O | C4H7N3O
product | 1-methyl-4-[4-(trifluoromethoxy)phenyl]-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione | 0.15 g | CN1NC(C=2C(C3=C(NC21)CCC3=O)C3=CC=C(C=C3)OC(F)(F)F)=O | C17H14F3N3O3
